US07645755B2
a) 5-Nitro-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester
A solution of 202 mg (0.994 mmol) 2-bromo-5-nitropyridine in 4 mL of toluene and 2 mL of EtOH was treated with 338 mg (1.09 mmol) 4-trifluoromethane-sulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (Synthesis, 993, (1991)) and 1.49 mL (2.981 mmol) 2 M aqueous Na2CO3. The mixture was degassed via sonication, placed under argon, treated with 80.3 mg (0.00700 mmol) Pd(PPh3)4 and heated to 80° C. for 4 h. The mixture was diluted with EtOAc and washed with water. The organic layer was dried over MgSO4 and concentrated in vacuo. The resulting residue was chromatographed on a 50-g silica Varian MegaBond Elut column with 10-25% EtOAc-hexane to afford 226 mg (75%) of the title compound as a light yellow solid: Mass spectrum (ESI, m/z): Calcd. for C15H19N3O4, 306.1 (M+H), found 305.7.

reactant | 2-bromo-5-nitropyridine | 0.994 mmol, 202 mg | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 4-trifluoromethane-sulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.09 mmol, 338 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | Na2CO3 | 2.981 mmol, 2 M, 1.49 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.00700 mmol, 80.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Nitro-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 226 mg, 75% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C15H19N3O4
